US08871790B2
Compound 463.1. Trimethyl((4-(trimethylsilyl)but-3-yn-1-yl)oxy)silane
Into a 1-L three neck round-bottom flask, was placed a solution of but-3-yn-1-ol (20.0 g, 285 mmol, 1.00 equiv) in tetrahydrofuran (300 mL) and the mixture was purged with nitrogen. The mixture was cooled to −78° C., then n-butyllithium (2.5 M in THF) (270 mL, 2.40 equiv) was added drop-wise followed by the addition of chlorotrimethylsilane (67.9 g, 625 mmol, 2.20 equiv). The resulting mixture was then stirred for 1 h at 25° C., then carefully quenched with aqueous sodium bicarbonate (250 mL). The aqueous was extracted with ether (3×100 mL) and the combined organics was dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by silica gel chromatography with ether/petroleum ether (1:10-1:1) as the eluent to obtain the title compound as a colorless oil (10.0 g, 16%).

reactant | but-3-yn-1-ol | 285 mmol, 20.0 g, 1.00 equiv | C(CC#C)O | C4H6O
reactant | n-butyllithium | 2.5 M, 270 mL, 2.40 equiv | C(CCC)[Li]
reactant | chlorotrimethylsilane | 625 mmol, 67.9 g, 2.20 equiv | Cl[Si](C)(C)C | C3H9ClSi
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | Trimethyl((4-(trimethylsilyl)but-3-yn-1-yl)oxy)silane | 10.0 g, 16% | C[Si](OCCC#C[Si](C)(C)C)(C)C | C10H22OSi2
